US06214823B1
Preparation of 3-azido-5-cyclopropyl-1-ethyl-1H-benzo[e][1,4]diazepine
To a stirring solution of 5-cyclopropyl-1-ethyl-1H-benzo[e][1,4]diazepine (6.4 g, 0.028 mol) in THF (125 ml) cooled to −78° C. was added potassium tert-butoxide (2.05 eq, 0.057 mol, 57.2 ml of a 1 M solution in THF) dropwise over 15 min. A solution of 2,4,6-triisopropylphenyl-sulfonylazide (9.5 g, 0.031 mol) in THF (100 ml) was added over 5 min. The solution was stirred for 10 min, acetic acid (7.7 ml,0.123 mol) was added and the reaction warmed to 30° C. for 2 hour. The reaction was concentrated the residue dissolved in dichloromethane (200 mL) and washed with satd. NaHCO3 (200 ml). The aqueous layer was back extracted with dichloromethane (100 ml). The organic layers were combined, dried with Na2SO4 and evaporated to a foam. The foam was chromatographed over silica eluting with 30% ethyl acetate:hexane. The appropriate fractions were collected and evaporated under reduced pressure to give 5.83 g of a powder. MP=158-160° C.

reactant | 5-cyclopropyl-1-ethyl-1H-benzo[e][1,4]diazepine | 0.028 mol, 6.4 g | C1(CC1)C=1C2=C(N(C=CN1)CC)C=CC=C2 | C14H16N2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,4,6-triisopropylphenyl-sulfonylazide | 0.031 mol, 9.5 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | acetic acid | 0.123 mol, 7.7 ml | C(C)(=O)O | C2H4O2
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-azido-5-cyclopropyl-1-ethyl-1H-benzo[e][1,4]diazepine | 5.83 g | N(=[N+]=[N-])C=1N=C(C2=C(N(C1)CC)C=CC=C2)C2CC2 | C14H15N5
